US06222034B1
3,4,5,6,7,8-Hexahydro-2-hydroxy-7-acetyl-3-[2-(4-(2-methoxyphenyl)-1-piperazinyl)ethyl]pyrido[4′,3′:4,5]thieno[2,3-d]pyrimidin-4-one
2.5 g (7.3 mmol) of 2-carboethoxyamino-3-carboethoxy-6-acetyl-4,5,6,7-tetrahydrothieno[2,3-c]pyridine were heated with 1.7 g (7.3 mmol) of 1-(2-aminoethyl)-4-(2-methoxyphenyl)piperazine at 180° C. for 2 h under nitrogen while stirring the melt efficiently. After cooling, the crude product was purified by column chromatography (silica gel, mobile phase methylene chloride/ methanol 95/5). 0.7 g (20%) of product with melting point 135-137° C. was isoldted.

reactant | 2-carboethoxyamino-3-carboethoxy-6-acetyl-4,5,6,7-tetrahydrothieno[2,3-c]pyridine | 7.3 mmol, 2.5 g | C(=O)(OCC)NC1=C(C2=C(CN(CC2)C(C)=O)S1)C(=O)OCC | C15H20N2O5S
reactant | 1-(2-aminoethyl)-4-(2-methoxyphenyl)piperazine | 7.3 mmol, 1.7 g | NCCN1CCN(CC1)C1=C(C=CC=C1)OC | C13H21N3O
product | 3,4,5,6,7,8-Hexahydro-2-hydroxy-7-acetyl-3-[2-(4-(2-methoxyphenyl)-1-piperazinyl)ethyl]pyrido[4′,3′:4,5]thieno[2,3-d]pyrimidin-4-one | OC=1N(C(C2=C(N1)SC1=C2CCN(C1)C(C)=O)=O)CCN1CCN(CC1)C1=C(C=CC=C1)OC | C24H29N5O4S
